US08084553B2
Synthesis of Phenyl Glycidyl Carbonate (P2)
A three-necked round bottom flask, equipped with a reflux condenser, an addition funnel, and a nitrogen gas inlet is charged with 25.00 g (0.160 mole) of phenyl chloroformate and 70 g of THF. The reactor was placed in a 0° C. bath and purged with nitrogen. After 30 minutes, a solution of 13.00 g (0.175 mole) glycidol, 19.50 g (0.193 mole) triethylamine, and 75 g of anhydrous tetrahydrofuran (THF) was added drop wise over the course of one hour, after which the reaction was allowed to warm to room temperature and allowed to stir overnight under a nitrogen atmosphere. The contents of the reactor were discharged, filtered, and evaporated to dryness to afford 29.51 g of crude product, which was purified by flash chromatography using silica gel and eluted with a 1:1 solution of iso-propyl acetate and hexane. See FIG. 10.

reactant | phenyl chloroformate | 0.160 mole, 25.00 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | glycidol | 0.175 mole, 13.00 g | C1C(O1)CO | C3H6O2
reactant | triethylamine | 0.193 mole, 19.50 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 75 g | O1CCCC1 | C4H8O
solvent | THF | 70 g | O1CCCC1 | C4H8O
product | Phenyl Glycidyl Carbonate | 29.51 g | C(OC1=CC=CC=C1)(OCC1CO1)=O | C10H10O4
